US06765012B2
A room temperature solution of 2.53 gms. (4-Nitro-phenyl)-acetic acid in tetrahydrofuran (10 mL) is treated with 2.44 gms. 1′,1′-carbonyl-diimidizole and immediately immersed in an ice bath. The reaction mixture is stirred in the ice bath for 30 minutes then it is allowed to warm to room temperature. Once at room temperature the reaction mixture is treated with 1.21 mL piperidine, and then is stirred overnight at room temperature. The reaction is then made basic with the addition of saturated aqueous sodium bicarbonate, and the resulting mixture is extracted with ethyl acetate. The organics are separated, dried over anhydrous sodium sulfate, filtered, and subsequently evaporated to dryness in vacuo. The crude product residue is then chromatographed by flash silica gel chromatography using 50% ethyl acetate in hexanes as the eluant. Following evaporation of solvent, 2-(4-nitro-phenyl)-1-piperidin-1-yl-ethanone is isolated as a white solid in the amount of 3.18 gms.

reactant | (4-Nitro-phenyl)-acetic acid | [N+](=O)([O-])C1=CC=C(C=C1)CC(=O)O | C8H7NO4
reactant | piperidine | 1.21 mL | N1CCCCC1 | C5H11N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 2-(4-nitro-phenyl)-1-piperidin-1-yl-ethanone | [N+](=O)([O-])C1=CC=C(C=C1)CC(=O)N1CCCCC1 | C13H16N2O3
